US05457118
3-[3-(2-Ethoxycarbonylethyl)-5-(3-pyridyloxy)phenyl]propanoic acid
A solution of t-butyl 3-[3-(2-ethoxycarbonylethyl)-5-(3-pyridyloxy)phenyl]propanoate (Preparation 29; 7.8 g) in dichloromethane (100 ml) was treated with trifluoroacetic acid (20 ml) and the resulting solution stirred at room temperature for 20 hours and then evaporated under vacuum. The residue was azeotroped twice with toluene, and then ether (ca 100 ml) and pyridine (ca 10 ml) were added sequentially. This mixture was washed with water and then the combined aqueous washings extracted with ethyl acetate. The organic solutions were combined, washed with water, dried (MgSO4) and evaporated under vacuum to provide an oil, which crystallised on trituration with an ether: hexane mixture to give the title compound (6.56 g), m.p. 85°-87° C. Found: C,66.67; H,6.04; N,3.90. C19H21NO5 requires C,66.46; H,6.16; N,4.08%.

reactant | t-butyl 3-[3-(2-ethoxycarbonylethyl)-5-(3-pyridyloxy)phenyl]propanoate | 7.8 g | C(C)OC(=O)CCC=1C=C(C=C(C1)OC=1C=NC=CC1)CCC(=O)OC(C)(C)C | C23H29NO5
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[3-(2-Ethoxycarbonylethyl)-5-(3-pyridyloxy)phenyl]propanoic acid | 6.56 g | C(C)OC(=O)CCC=1C=C(C=C(C1)OC=1C=NC=CC1)CCC(=O)O | C19H21NO5
